US07902252B2
2.113. Synthesis of 4-(biphenyl-4-yl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (106)
The title compound was synthesized from methyl 4-(biphenyl-4-yl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (156 mg, 0.49 mmol) and lithium hydroxide monohydrate (83 mg, 1.97 mmol), according to General Procedure 7. A 1:2 mixture of THF and methanol (15 mL) was used. The resulting product was purified by flash chromatography (Isco CombiFlash) eluting with a gradient of 0-80% EtOAc/Heptane to give the title compound: 135 mg, 90.6%. 1H NMR (400 MHz, METHANOL-d4) δ ppm 2.22-2.33 (m, 1H), 2.73-2.82 (m, 1H), 2.82-2.91 (m, 1H), 2.91-3.00 (m, 1H), 4.23 (t, J=7.20 Hz, 1H), 6.56 (s, J=1H), 7.24-7.32 (m, 3H) 7.37-7.43 (m, 2H), 7.50-7.55 (m, 2H), 7.57-7.61 (m, 2H); LCMS-MS (ESI+) 304.2 (M+H); HPLC (UV=100%), (ELSD=100%).

reactant | methyl 4-(biphenyl-4-yl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.49 mmol, 156 mg | C1(=CC=C(C=C1)C1CCC=2NC(=CC21)C(=O)OC)C2=CC=CC=C2 | C21H19NO2
reactant | lithium hydroxide monohydrate | 1.97 mmol, 83 mg | O.[OH-].[Li+]
reactant | THF | C1CCOC1 | C4H8O
solvent | methanol | 15 mL | CO | CH4O
product | 4-(biphenyl-4-yl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | C1(=CC=C(C=C1)C1CCC=2NC(=CC21)C(=O)O)C2=CC=CC=C2 | C20H17NO2
